US05405873
Preparation of N'-methyl-N-(6,6-dimethyl-2,4-heptadiynyl) -N-pentylethylenediamine
In 1 ml of ethanol was dissolved 30 mg of N-(6,6-dimethyl-2,4-heptadiynyl)-N-pentylethylenediamine. Then 20 μl of 35% formalin and 8.3 mg of sodium cyanoborohydride were added to the solution. The mixture was stirred at room temperature for 2 hours. The reaction mixture was extracted with a mixture of ethyl acetate and 1N hydrochloric acid. The organic layer was fractionated, washed with saturated sodium bicarbonate aqueous solution and dried over anhydrous magnesium sulfate. The drying agent was filtered off and the solvent was then removed under reduced pressure. The residue was purified by silica gel column chromatography (Wako Gel C-200, 10 g, methylene chloride/methanol=50/1) to give 10 mg (yield: 32%) of the title compound as colorless oil.

reactant | N-(6,6-dimethyl-2,4-heptadiynyl)-N-pentylethylenediamine | 30 mg | CC(C#CC#CCN(CCN)CCCCC)(C)C | C16H28N2
reactant | formalin | 20 μl | C=O | CH2O
reactant | sodium cyanoborohydride | 8.3 mg | C(#N)[BH3-].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | N'-methyl-N-(6,6-dimethyl-2,4-heptadiynyl) -N-pentylethylenediamine | 10 mg, yield: 32% | CNCCN(CCCCC)CC#CC#CC(C)(C)C | C17H30N2
